US08981084B2
6-(3-Methyl-4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)nicotinonitrile
This compound was synthesized from 6-(3-methylpiperazin-1-yl)nicotinonitrile and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (75 mg, yield 39%). 1H NMR (400 MHz, MeOD) δ 8.41 (d, J=2.0 Hz, 1H), 8.27-8.25 (m, 1H), 8.18 (s, 1H), 7.77-7.72 (m, 3H), 6.89 (d, J=9.0 Hz, 1H), 4.39 (m, 3H), 3.48 (m, 2H), 3.22-3.15 (m, 1H), 1.29 (m, 3H). MS (ESI) m/z: Calculated for C21H17F3N6O2: 442.14. found: 443.2 (M+H)+.

reactant | 6-(3-methylpiperazin-1-yl)nicotinonitrile | CC1CN(CCN1)C1=NC=C(C#N)C=C1 | C11H14N4
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | 6-(3-Methyl-4-(3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)piperazin-1-yl)nicotinonitrile | yield 39% | CC1CN(CCN1C(C1=CC(=CC=C1)C1=NOC(=N1)C(F)(F)F)=O)C1=NC=C(C#N)C=C1 | C21H17F3N6O2
